US06858599B2
Synthesis of 4-hydroxy-4-nitromethyl-1-(4-pyridyl)piperidine
To a solution of nitromethane (2.31 ml) in methanol (5.4 ml) was added sodium (70 mg) at ice-cooled temperature. The resulting mixture was added dropwise to a solution of 1-(4-pyridyl)-4-piperidone (5.36 g) in methanol (10.7 ml) at ice-cooled temperature for 10 minutes, and stirred for 15 hours at room temperature. The precipitate was filtered, and washed with methanol to obtain the title compound (5.31 g).

reactant | nitromethane | 2.31 ml | [N+](=O)([O-])C | CH3NO2
reactant | sodium | 70 mg | [Na] | Na
reactant | 1-(4-pyridyl)-4-piperidone | 5.36 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
solvent | methanol | 5.4 ml | CO | CH4O
solvent | methanol | 10.7 ml | CO | CH4O
product | 4-hydroxy-4-nitromethyl-1-(4-pyridyl)piperidine | 5.31 g | OC1(CCN(CC1)C1=CC=NC=C1)C[N+](=O)[O-] | C11H15N3O3
